US07528173B2
To a slurry of 2-(3-(N′,N″-di(t-butoxycarbonyl)guanidino)phenyl)-2-((1R)-(1-(benzylsulfonyl)amino-2-methylpropyl)(hydroxy)phosphinoyloxy)ethanoic acid methyl ester (0.53 mmol) in 6 mL of methanol and 3 mL of H2O was added LiOH (124.3 mg, 5.3 mmol). After stirring for 6 hours, the solution was acidified to pH 2 with concentrated HCl and extracted with methylene chloride (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give 2-(3-(N′,N″-di(t-butoxycarbonyl)guanidino)phenyl)-2-((1R)-(1-(benzylsulfonyl)amino-2-methylpropyl)(hydroxy)phosphinoyloxy)ethanoic acid as a yellow oil that was used without further purification in the following step.

reactant | 2-(3-(N′,N″-di(t-butoxycarbonyl)guanidino)phenyl)-2-((1R)-(1-(benzylsulfonyl)amino-2-methylpropyl)(hydroxy)phosphinoyloxy)ethanoic acid methyl ester | 0.53 mmol | COC(C(OP(=O)(O)[C@H](C(C)C)NS(=O)(=O)CC1=CC=CC=C1)C1=CC(=CC=C1)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C31H45N4O11PS
reactant | LiOH | 5.3 mmol, 124.3 mg | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
product | 2-(3-(N′,N″-di(t-butoxycarbonyl)guanidino)phenyl)-2-((1R)-(1-(benzylsulfonyl)amino-2-methylpropyl)(hydroxy)phosphinoyloxy)ethanoic acid | C(C)(C)(C)OC(=O)N=C(NC=1C=C(C=CC1)C(C(=O)O)OP(=O)(O)[C@H](C(C)C)NS(=O)(=O)CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C30H43N4O11PS
